US07265104B2
To a solution phenylenediamine (17.2 g, 159.2 mmol) and acetic acid (0.4 mL) in xylenes (225 mL) at 140° C. was added 3,3-diethoxyacrylic acid ethyl ester (30.0 g, 159.2 mmol) in xylenes (80 mL) dropwise over 50 minutes. The reaction was heated at 140° C. for 2 hours, was cooled to room temperature, and was stirred for 24 h. The resulting white precipitate was filtered, was washed with ether (100 mL), and was dried under vacuum to provide 18.37 g of 4-ethoxy-1,3-dihydro-benzo[b][1,4]diazepin-2-one as a white fluffy solid. MS 205 (M+1).

reactant | phenylenediamine | 159.2 mmol, 17.2 g | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | 3,3-diethoxyacrylic acid ethyl ester | 159.2 mmol, 30.0 g | C(C)OC(C=C(OCC)OCC)=O | C9H16O4
solvent | acetic acid | 0.4 mL | C(C)(=O)O | C2H4O2
product | 4-ethoxy-1,3-dihydro-benzo[b][1,4]diazepin-2-one | 18.37 g | C(C)OC1=NC2=C(NC(C1)=O)C=CC=C2 | C11H12N2O2
